US08242153B2
b) (E)-4-(4-Fluoro-phenyl)-4-methyl-pent-2-enoic acid ethyl ester
To a stirred solution of triethyl phosphonoacetate (4.58 ml) in tetrahydrofuran (30 ml) was added portionwise sodium hydride (1.00 g, 60% dispersion in oil). The mixture was stirred for 1 hour at room temperature and then a solution of 2-(4-fluoro-phenyl)-2-methyl-propionaldehyde (3.46 g) in tetrahydrofuran (10 ml) was added dropwise at 0° C. The reaction mixture was allowed to warm to room temperature and stirred for 1 day. The mixture was then acidified by addition of 1 M aq. hydrochloric acid and taken up in ethyl acetate. The mixture was washed sequentially with water and with saturated brine, then dried over Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography (SiO2, heptane/EtOAc gradient) to yield a colourless oil, (4.14 g, 84%); MS (ISP): 237.3 ([M+H]+).

reactant | sodium hydride | 1.00 g | [H-].[Na+]
reactant | 2-(4-fluoro-phenyl)-2-methyl-propionaldehyde | 3.46 g | FC1=CC=C(C=C1)C(C=O)(C)C | C10H11FO
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (E)-4-(4-Fluoro-phenyl)-4-methyl-pent-2-enoic acid ethyl ester | C(C)OC(\C=C\C(C)(C)C1=CC=C(C=C1)F)=O | C14H17FO2
